US08957069B2
1-(4-Methoxyphenyl)-4-[2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl]piperazine
By using 5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran (4.02 g, 15.8 mmol) synthesized in Reference example 53 and 1-(4-methoxyphenyl)piperazine (6.08 g, 31.6 mmol), the reaction was carried out in the same manner as Example 1 to obtain the title compound 2.25 g (yield 39%).

reactant | 5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran | 15.8 mmol, 4.02 g | BrC=1C(=C(C2=C(CC(O2)C)C1C)C)C | C12H15BrO
reactant | 1-(4-methoxyphenyl)piperazine | 31.6 mmol, 6.08 g | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 1-(4-Methoxyphenyl)-4-[2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl]piperazine | 2.25 g, yield 39% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)C)C1C)C)C | C23H30N2O2
